* Test VCO from ngspice examples with transient analysis
* VCO: 7-stage differential ring oscillator
* Expected frequency: 150-900 MHz (controlled by Vcont)

* Define vcc parameter (needed by ADC bridge in VCO)
.param vcc=3.3

* Include VCO subcircuit definition
.include vco_sub.cir

* Supply voltages
VDD dd 0 DC 3.3
VSS ss 0 DC 0

* Control voltage (sweep from 0.5V to 2.5V for different frequencies)
* Start with mid-range: 1.5V should give ~500 MHz
Vcont cont 0 DC 1.5

* Instantiate VCO
* ro_vco subcircuit: aout dout cont dd
Xvco aout dout cont dd ro_vco

* Load capacitor on output
Cout aout 0 0.5pF

* BSIM3 NMOS model (from shared-pll-xspice.cir)
.model N1 NMOS
+version = 3.3.0
+Level=        8
+Tnom=27.0
+Nch= 2.498E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=9.36e-8 Wint=1.47e-7
+Vth0= .6322    K1= .756  K2= -3.83e-2  K3= -2.612
+Dvt0= 2.812  Dvt1= 0.462  Dvt2=-9.17e-2
+Nlx= 3.52291E-08  W0= 1.163e-6
+K3b= 2.233
+Vsat= 86301.58  Ua= 6.47e-9  Ub= 4.23e-18  Uc=-4.706281E-11
+Rdsw= 650  U0= 388.3203 wr=1
+A0= .3496967 Ags=.1    B0=0.546    B1= 1
+ Dwg = -6.0E-09 Dwb = -3.56E-09 Prwb = -.213
+Keta=-3.605872E-02  A1= 2.778747E-02  A2= .9
+Voff=-6.735529E-02  NFactor= 1.139926  Cit= 1.622527E-04
+Cdsc=-2.147181E-05
+Cdscb= 0  Dvt0w =  0 Dvt1w =  0 Dvt2w =  0
+ Cdscd =  0 Prwg =  0
+Eta0= 1.0281729E-02  Etab=-5.042203E-03
+Dsub= .31871233
+Pclm= 1.114846  Pdiblc1= 2.45357E-03  Pdiblc2= 6.406289E-03
+Drout= .31871233  Pscbe1= 5000000  Pscbe2= 5E-09 Pdiblcb = -.234
+Pvag= 0 delta=0.01
+ Wl =  0 Ww = -1.420242E-09 Wwl =  0
+ Wln =  0 Wwn =  .2613948 Ll =  1.300902E-10
+ Lw =  0 Lwl =  0 Lln =  .316394
+ Lwn =  0
+kt1=-.3  kt2=-.051
+At= 22400
+Ute=-1.48
+Ua1= 3.31E-10  Ub1= 2.61E-19 Uc1= -3.42e-10
+Kt1l=0 Prt=764.3

* BSIM3 PMOS model (from shared-pll-xspice.cir)
.model P1 PMOS
+version = 3.3.0
+Level=        8
+Tnom=27.0
+Nch= 3.533024E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=6.23e-8 Wint=1.22e-7
+Vth0=-.6732829 K1= .8362093  K2=-8.606622E-02  K3= 1.82
+Dvt0= 1.903801  Dvt1= .5333922  Dvt2=-.1862677
+Nlx= 1.28e-8  W0= 2.1e-6
+K3b= -0.24 Prwg=-0.001 Prwb=-0.323
+Vsat= 103503.2  Ua= 1.39995E-09  Ub= 1.e-19  Uc=-2.73e-11
+ Rdsw= 460  U0= 138.7609
+A0= .4716551 Ags=0.12
+Keta=-1.871516E-03  A1= .3417965  A2= 0.83
+Voff=-.074182  NFactor= 1.54389  Cit=-1.015667E-03
+Cdsc= 8.937517E-04
+Cdscb= 1.45e-4  Cdscd=1.04e-4
+ Dvt0w=0.232 Dvt1w=4.5e6 Dvt2w=-0.0023
+Eta0= 6.024776E-02  Etab=-4.64593E-03
+Dsub= .23222404
+Pclm= .989  Pdiblc1= 2.07418E-02  Pdiblc2= 1.33813E-3
+Drout= .3222404  Pscbe1= 118000  Pscbe2= 1E-09
+Pvag= 0
+kt1= -0.25  kt2= -0.032 prt=64.5
+At= 33000
+Ute= -1.5
+Ua1= 4.312e-9 Ub1= 6.65e-19  Uc1= 0
+Kt1l=0

* Transient analysis
* At Vcont=1.5V, expect ~500 MHz → period ~2ns
* Run for 20 periods = 40ns
.TRAN 20p 40n

.END
