* NMOS DC Sweep Example (Clean version for programmatic pipeline)
* Simple NMOS transistor with DC sweep on gate voltage

* Circuit (Fixed: Added load resistor)
M1 vd vg 0 0 NMOS W=1u L=1u
VDD vdd 0 DC 1.8V
RD vdd vd 10k
VGS vg 0 DC 0V

* NMOS model (Level 1 - simple)
.MODEL NMOS NMOS (LEVEL=1 VTO=0.4 KP=100u LAMBDA=0.02)

* DC Sweep: Vary gate voltage from 0V to 1.8V
.DC VGS 0 1.8 0.05

.END
